US06225311B1
According to the procedure of Example 21, 0.419 g (1.236 mmol) of 2-(4but-2-ynyloxy-benzenesulfonylamino)-3-methyl-butyric acid methyl ester and 0.408 g (2.20 mmol) of 4-(2-chloroethyl)morpholine hydrochloride provided 0.506 g of 2-[(4-but-2-ynyloxy-benzenesulfonyl)-(2-morpholin-4-yl-ethyl)-amino]-3-methyl-butyric acid methyl ester as a colorless oil. Electrospray Mass Spec 453.0 (M+H)+

reactant | 2-(4but-2-ynyloxy-benzenesulfonylamino)-3-methyl-butyric acid methyl ester | 1.236 mmol, 0.419 g | COC(C(C(C)C)NS(=O)(=O)C1=CC=C(C=C1)OCC#CC)=O | C16H21NO5S
reactant | 4-(2-chloroethyl)morpholine hydrochloride | 2.20 mmol, 0.408 g | Cl.ClCCN1CCOCC1
product | 2-[(4-but-2-ynyloxy-benzenesulfonyl)-(2-morpholin-4-yl-ethyl)-amino]-3-methyl-butyric acid methyl ester | 0.506 g | COC(C(C(C)C)N(CCN1CCOCC1)S(=O)(=O)C1=CC=C(C=C1)OCC#CC)=O | C22H32N2O6S
